US06562828B1
2-[N-[4-(Piperidin-4-yloxy)phenyl]-N-(4-methoxycarbonylbenzoyl)aminomethyl]-1-(cyclohexylcarbamoylmethyl)benzimidazole-5-carboxamidine Dihydrochloride
To a solution of 2-[N-[4-(1-tert-butoxycarbonylpiperidin-4-yloxy)phenyl]-N-(4-methoxycarbonylbenzoyl)aminomethyl]-1-(cyclohexylcarbamoylmethyl)-benzimidazole-5-carboxamidine (201 mg) in chloroform (1 ml) was added trifluoroacetic acid (1 ml), and the mixture was stirred for 5 min. After completion of the reaction, the solvent was evaporated and to the obtained residue was added a 1N hydrogen chloride-diethyl ether solution. The obtained solid was collected by filtration and dried under reduced pressure to give the title compound (175 mg).

reactant | 2-[N-[4-(1-tert-butoxycarbonylpiperidin-4-yloxy)phenyl]-N-(4-methoxycarbonylbenzoyl)aminomethyl]-1-(cyclohexylcarbamoylmethyl)-benzimidazole-5-carboxamidine | 201 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)C(=O)OC)=O)CC1=NC2=C(N1CC(NC1CCCCC1)=O)C=CC(=C2)C(=N)N | C42H51N7O7
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[N-[4-(Piperidin-4-yloxy)phenyl]-N-(4-methoxycarbonylbenzoyl)aminomethyl]-1-(cyclohexylcarbamoylmethyl)benzimidazole-5-carboxamidine Dihydrochloride | 175 mg | Cl.Cl.N1CCC(CC1)OC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)C(=O)OC)=O)CC1=NC2=C(N1CC(NC1CCCCC1)=O)C=CC(=C2)C(=N)N | InChI=1S/C37H43N7O5.2ClH/c1-48-37(47)25-9-7-24(8-10-25)36(46)43(28-12-14-29(15-13-28)49-30-17-19-40-20-18-30)22-33-42-31-21-26(35(38)39)11-16-32(31)44(33)23-34(45)41-27-5-3-2-4-6-27;;/h7-16,21,27,30,40H,2-6,17-20,22-23H2,1H3,(H3,38,39)(H,41,45);2*1H
